US05661106
Methyl 3-phenoxy-3-phenyl-2-hydroxybutyrate
28.2 g (0.3 mol) of phenol and 19.2 g (0.1 mol) of methyl 3-phenyl-2,3-epoxybutyrate are heated together for 6 hours at 100° C. After the excess phenol has been distilled off under greatly reduced pressure and the residue has been purified by chromatography over silica gel using a hexane/ethyl acetate mixture, 17.9 g of a slightly yellow oil are obtained.

reactant | phenol | 0.3 mol, 28.2 g | C1(=CC=CC=C1)O | C6H6O
reactant | methyl 3-phenyl-2,3-epoxybutyrate | 0.1 mol, 19.2 g | C1(=CC=CC=C1)C1(C(C(=O)OC)O1)C | C11H12O3
product | Methyl 3-phenoxy-3-phenyl-2-hydroxybutyrate | O(C1=CC=CC=C1)C(C(C(=O)OC)O)(C)C1=CC=CC=C1 | C17H18O4
